US06660752B2
Preparation of 1-(4-bromophenyl)-2-[(phenyl)sulfonyl]ethan-1-one
To benzenesulfonyl chloride (0.5 mL, 3.92 mmol) in 4:1 v/v tetrahydrofuran-water (20 mL) was added powdered zinc (282 mg, 4.31 mmol, 1.1 eq.) followed by 4-bromophenacyl bromide (1.31 g, 4.70 mmol, 1.2 eq.). The reaction mixture was stirred at room temperature for 17 hours. The volatile solvent was evaporated under reduced pressure and poured into water. The reaction was extracted with ethyl acetate (2×150 mL), and the combined organic layers were washed with brine (1×100 mL), dried (MgSO4), filtered, and evaporated under reduce pressure. The crude product was purified using MPLC (Biotage) eluted with 5:1 v/v hexane-ethyl acetate. Crystallization from dichloromethane-hexane gave the desired product as a white fluffy solid (486 mg, 36.6% yield). MS LC-MS (ES MH+=340); TLC (Rf=0.30, 25% ethyl acetate-hexane)

reactant | benzenesulfonyl chloride | 3.92 mmol, 0.5 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | 4-bromophenacyl bromide | 4.70 mmol, 1.31 g, 1.2 eq. | BrC1=CC=C(C(CBr)=O)C=C1 | C8H6Br2O
catalyst | zinc | 4.31 mmol, 282 mg, 1.1 eq. | [Zn] | Zn
solvent | tetrahydrofuran water | 20 mL | O1CCCC1.O
product | 1-(4-bromophenyl)-2-[(phenyl)sulfonyl]ethan-1-one | BrC1=CC=C(C=C1)C(CS(=O)(=O)C1=CC=CC=C1)=O | C14H11BrO3S
